US07652122B2
A transesterification reaction was performed between dimethyl carbonate and phenol to obtain methyl phenyl carbonate. The obtained methyl phenyl carbonate was subjected to a disproportionation reaction to obtain a diphenyl carbonate product containing about 90 ppm by weight of methyl phenyl carbonate.

reactant | dimethyl carbonate | C(OC)(OC)=O | C3H6O3
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | methyl phenyl carbonate | C(OC)(OC1=CC=CC=C1)=O | C8H8O3
